US09056859B2
To a 100 mL round bottom flask was added 6-bromo-3,4-dihydro-1H-isochromen-1-one (20 g, 88 mmol, 1.0 eq), potassium trifluoro(vinyl)borate (23.6 g, 176 mmol, 2.0 eq), [1,1′-bis(diphenylposphino)-ferrocene]dichloropalladium(II) complex with dichloromethane(1:1) (7.2 g, 8.8 mmol, 0.1 eq) and triethylamine (24.5 mL, 2.0 eq). To above mixture was added ethanol (400 mL). The flask was degassed and filled with nitrogen. The reaction was heated to reflux under N2 for 10 hr, then cooled and stirred at r.t. for 5 hr. The mixture was then diluted with EtOAc, filtered through a pad of Celite® and washed with brine. The organic phase was dried over Na2SO4, filtered and purified by flash column chromatography using Biotage and the solvent systems (0-50% EtOAc/Hexane). The fractions containing desired product were collected and concentrated to give 6-vinyl-3,4-dihydro-1H-isochromen-1-one.

reactant | 6-bromo-3,4-dihydro-1H-isochromen-1-one | 88 mmol, 20 g, 1.0 eq | BrC=1C=C2CCOC(C2=CC1)=O | C9H7BrO2
reactant | potassium trifluoro(vinyl)borate | 176 mmol, 23.6 g, 2.0 eq | [B-](C=C)(F)(F)F.[K+]
reactant | dichloromethane | 8.8 mmol, 7.2 g, 0.1 eq | ClCCl | CH2Cl2
reactant | triethylamine | 24.5 mL, 2.0 eq | C(C)N(CC)CC | C6H15N
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 6-vinyl-3,4-dihydro-1H-isochromen-1-one | C(=C)C=1C=C2CCOC(C2=CC1)=O | C11H10O2
